US09301951B2
3-(3-((2-(4-(3,4-dimethylphenylamino)pyridin-2-yl)-4-(piperidin-1-yl)-phenyl)carbamoyl)benzylthio)propanoic acid
Into a 50-mL 3-necked round bottom flask, was placed a solution of methyl 3-(3-((2-(4-(3,4-dimethylphenylamino)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)propanoate (440 mg, 0.72 mmol, 1.00 equiv) in tetrahydrofuran (10 mL), and a solution of LiOH H2O (300 mg, 7.14 mmol, 9.89 equiv) in water (2 mL). The resulting solution was stirred for 18 h at room temperature. The reaction was then quenched with 30 mL of water. The solution was adjusted to pH 6-7 with hydrochloric acid (1 N). The resulting solution was extracted with 3×30 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 1×30 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (250 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 237.2 mg (55%) of as a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 13.76 (s, 1H), 10.22 (s, 1H), 10.11 (s, 1H), 8.21 (d, J=6 Hz, 1H), 7.71 (s, 1H), 7.61 (d, J=6.6 Hz, 1H), 7.51 (d, J=7.5 Hz, 1H), 7.42 (m, 1H), 7.32 (d, J=8.1 Hz, 1H), 7.16 (d, J=9 Hz, 1H), 7.08 (s, 2H), 6.94 (m, 3H), 6.81 (s, 1H), 3.80 (s, 2H), 3.24 (s, 4H), 2.55 (m, 3H), 2.17 (d, 6H), 1.63 (s, 6H). MS (ES, m/z): 595 [M+H]+.

reactant | methyl 3-(3-((2-(4-(3,4-dimethylphenylamino)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzylthio)propanoate | 0.72 mmol, 440 mg, 1.00 equiv | CC=1C=C(C=CC1C)NC1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)OC)C=CC1 | C36H40N4O3S
reactant | LiOH H2O | 7.14 mmol, 300 mg, 9.89 equiv | O[Li].O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 3-(3-((2-(4-(3,4-dimethylphenylamino)pyridin-2-yl)-4-(piperidin-1-yl)-phenyl)carbamoyl)benzylthio)propanoic acid | CC=1C=C(C=CC1C)NC1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1 | C35H38N4O3S
